US04994460
1-(4-Fluorophenyl)-4-(4-(5-fluoro-2-pyrimidinyl)-1-piperazinyl)-1-butyl 4-fluorobenzoate hydrochloride
A cold (5° C.) mixture of 1-(4-fluorophenyl)-4-(4-(5-fluoro-2-pyrimidinyl)-1-piperazinyl)-1-butanol monohydrochloride. (3.0 g, 7.8 mmol) and Et3N (2.40 mL, 17.2 mmol) in CH2Cl2 (55 mL) was treated dropwise (10 min) with 4-fluorobenzoyl chloride (1.11 mL, 9.4 mmol). The cooling bath was removed and the reaction mixture stirred at 23° C. for 20 h before being diluted with CH2Cl2 (250 mL). The organic solution was washed with water (30 mL), saturated Na2CO3 solution to bring pH to 9, water (30 mL) and brine, dried (MgSO4) and concentrated in vacuo to a crude mixture which was purified on silica gel column using a mixture of 20-30% AcOEt in CH2Cl2. The appropriate fractions were concentrated in vacuo to a thick syrup, 3.4 g, 93%. The free base was solubilized in EtOH and treated with HCl in EtOH (one equivalent). The solvent was removed under reduced pressure leaving a gum which was crystallized from AcOEt affording analytical sample mp 94°-8° C.

reactant | 1-(4-fluorophenyl)-4-(4-(5-fluoro-2-pyrimidinyl)-1-piperazinyl)-1-butanol monohydrochloride | Cl.FC1=CC=C(C=C1)C(CCCN1CCN(CC1)C1=NC=C(C=N1)F)O
reactant | Et3N | 17.2 mmol, 2.40 mL | CCN(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 9.4 mmol, 1.11 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | HCl | Cl | ClH
reactant | EtOH | one equivalent | CCO | C2H6O
solvent | CH2Cl2 | 55 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Fluorophenyl)-4-(4-(5-fluoro-2-pyrimidinyl)-1-piperazinyl)-1-butyl 4-fluorobenzoate hydrochloride | Cl.FC1=CC=C(C(=O)OC(CCCN2CCN(CC2)C2=NC=C(C=N2)F)C2=CC=C(C=C2)F)C=C1 | InChI=1S/C25H25F3N4O2.ClH/c26-20-7-3-18(4-8-20)23(34-24(33)19-5-9-21(27)10-6-19)2-1-11-31-12-14-32(15-13-31)25-29-16-22(28)17-30-25;/h3-10,16-17,23H,1-2,11-15H2;1H
